US09315521B2
To a 0° C. solution of 1-ethyl-5-methyl-1H-imidazole-4-carbaldehyde (700 mg, 5.1 mmol) in anhydrous methanol (75 mL) was added sodium borohydride (380 mg, 10.0 mmol). The reaction mixture was stirred at room temperature for 2 hours. Water (20 mL) was added. The mixture was evaporated. The resultant residue was treated with EtOAc (30 mL) and water (5 mL). The mixture was dried over MgSO4, filtered, evaporated, and dried in vacuo, affording (1-ethyl-5-methyl-1H-imidazol-4-yl)methanol (350 mg, 49% yield). The product was used without further purification.

reactant | 1-ethyl-5-methyl-1H-imidazole-4-carbaldehyde | 5.1 mmol, 700 mg | C(C)N1C=NC(=C1C)C=O | C7H10N2O
reactant | sodium borohydride | 10.0 mmol, 380 mg | [BH4-].[Na+]
reactant | Water | 20 mL | O | H2O
solvent | methanol | 75 mL | CO | CH4O
product | (1-ethyl-5-methyl-1H-imidazol-4-yl)methanol | 350 mg, 49% yield | C(C)N1C=NC(=C1C)CO | C7H12N2O
